US07838547B2
4-Butoxy-N-[4-(3-oxopyrrolidin-1-yl)phenyl]benzamide
4-Butoxybenzoic acid was reacted with 4-(1,4-dioxa-7-azaspiro[4,4]non-7-yl)phenylamine by method E. The resulting amide (0.25 g) in acetone (10 ml) was mixed with para-toluenesulfonic acid (monohydrate, 109 mg), and the mixture was refluxed for 8 hours. After addition of triethylamine (0.5 ml), the mixture was diluted with water and extracted with ethyl acetate. The organic phase was dried over magnesium sulfate and concentrated. The product with the molecular weight of 352.44 (C21H24N2O3); MS (ESI): 353 (M+H+) was obtained in this way.

reactant | 4-Butoxybenzoic acid | C(CCC)OC1=CC=C(C(=O)O)C=C1 | C11H14O3
reactant | 4-(1,4-dioxa-7-azaspiro[4,4]non-7-yl)phenylamine | O1CCOC12CN(CC2)C2=CC=C(C=C2)N | C12H16N2O2
reactant | para-toluenesulfonic acid | 109 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 4-Butoxy-N-[4-(3-oxopyrrolidin-1-yl)phenyl]benzamide | C(CCC)OC1=CC=C(C(=O)NC2=CC=C(C=C2)N2CC(CC2)=O)C=C1 | C21H24N2O3
